US07816522B2
After adding 287 mg of 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamine [CAS No. 10185-68-9], 321 mg of 4-fluoro-7-methoxy-2,3-dihydrobenzofuran-5-carbaldehyde, 300 mg of MS3A and 0.44 ml of trimethylsilyl cyanide to a solution of 102 mg of Yb(OTf)3 in 5 ml of THF under a nitrogen atmosphere, the mixture was stirred overnight at room temperature. The reaction mixture was filtered through celite, and the celite was washed with ethyl acetate. The organic layer was concentrated under reduced pressure to give (4-fluoro-7-methoxy-2,3-dihydrobenzofuran-5-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile (crude product).

reactant | 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamine | 287 mg | CC1=NC(=NO1)C1=CC=C(C=C1)N | C9H9N3O
reactant | 4-fluoro-7-methoxy-2,3-dihydrobenzofuran-5-carbaldehyde | 321 mg | FC1=C(C=C(C2=C1CCO2)OC)C=O | C10H9FO3
reactant | trimethylsilyl cyanide | 0.44 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | Yb(OTf)3 | 102 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (4-fluoro-7-methoxy-2,3-dihydrobenzofuran-5-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile | FC1=C(C=C(C2=C1CCO2)OC)C(C#N)NC2=CC=C(C=C2)C2=NOC(=N2)C | C20H17FN4O3
